US04673684
To a solution of 527 mg (1.53 mmol) of N-[2-[1-phenyl-1-(p-chlorophenyl)ethoxy]ethyl]piperazine in dry dimethylformamide (10 ml) was added, under argon atmosphere, 760 mg (1.73 mmol) of N-[5-[3,5-dimethoxy-4-(β-methoxyethoxymethoxy)phenyl]-2,4-pentadienoyl]thiazolidine, and the mixture was allowed to react at room temperature for 67 hours. The reaction mixture was concentrated by evaporation under reduced pressure and the residue was subjected to silica gel column chromatography, eluted with chloroform-methanol (100:1), to give 618 mg (0.929 mmol) of N-[5-[3,5-dimethoxy-4-(β-methoxyethoxymethoxy)phenyl]-2,4-pentadienoyl]-N'-[2-[1-phenyl-1-(p-chlorophenyl)ethoxy]ethyl]piperazine.

reactant | N-[2-[1-phenyl-1-(p-chlorophenyl)ethoxy]ethyl]piperazine | 1.53 mmol, 527 mg | C1(=CC=CC=C1)C(C)(OCCN1CCNCC1)C1=CC=C(C=C1)Cl | C20H25ClN2O
reactant | N-[5-[3,5-dimethoxy-4-(β-methoxyethoxymethoxy)phenyl]-2,4-pentadienoyl]thiazolidine | 1.73 mmol, 760 mg | COC=1C=C(C=C(C1OCOCCOC)OC)C=CC=CC(=O)N1CSCC1 | C20H27NO6S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[5-[3,5-dimethoxy-4-(β-methoxyethoxymethoxy)phenyl]-2,4-pentadienoyl]-N'-[2-[1-phenyl-1-(p-chlorophenyl)ethoxy]ethyl]piperazine | 0.929 mmol, 618 mg | COC=1C=C(C=C(C1OCOCCOC)OC)C=CC=CC(=O)N1CCN(CC1)CCOC(C)(C1=CC=C(C=C1)Cl)C1=CC=CC=C1 | C37H45ClN2O7
